US05015260
Into 15 ml of benzene were added 2.10 g (13.7 mmol) of 2-methyl-4-methoxy-5-aminophenol, 1.28 g (13.9 mmol, 1.0 eq.) of methyl fluoroacetate and 1.64 g (30.4 mmol) of sodium methoxide and the mixture was heated under reflux for 6.5 hours. After allowing to cool, the mixture was poured into 300 ml of water, and neutralized with acetic acid and extracted with 200 ml of ethyl acetate. The organic layer was washed with a saturated aqueous solution of common salt and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain dark-brown crystals. The crystals were purified by silica gel column chromatography (Silica Gel 60, trade name, manufactured by Merck Co., 70-230 mesh, 200 g, eluent: ethyl acetate) and pale brown solid matters were obtained from the 600-900 ml fraction. The solid matters were recrystallized from the solvent mixture of hexane/ethyl acetate (2:1 by volume) to give 230 mg (1.9 mmol) of 2-methyl-4-methoxy-5-fluoroacetylaminophenol. The yield was 8%.

reactant | benzene | 15 ml | C1=CC=CC=C1 | C6H6
reactant | 2-methyl-4-methoxy-5-aminophenol | 13.7 mmol, 2.10 g | CC1=C(C=C(C(=C1)OC)N)O | C8H11NO2
reactant | methyl fluoroacetate | 13.9 mmol, 1.28 g, 1.0 eq. | FCC(=O)OC | C3H5FO2
reactant | sodium methoxide | 30.4 mmol, 1.64 g | C[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | 2-methyl-4-methoxy-5-fluoroacetylaminophenol | 1.9 mmol, 230 mg, yield was 8% | CC1=C(C=C(C(=C1)OC)NC(CF)=O)O | C10H12FNO3
